US08217031B2
2,2-Diethoxy-N-(thiophen-2-ylmethylene)ethanamine
2-Thiophene aldehyde (62.8 g) and 74.6 g of aminoacetaldehyde diethylacetal were dissolved in 200 mL of toluene and heated to reflux for 6 hours together with dehydration using a Dean-Stark trap. After confirming that a theoretical amount of water was separated, the solvent was evaporated therefrom in vacuo. The concentrated liquid was purified by a vacuum distillation to give 119 g of the objective compound.

reactant | 2-Thiophene aldehyde | 62.8 g | S1C(=CC=C1)C=O | C5H4OS
reactant | aminoacetaldehyde diethylacetal | 74.6 g | C(C)OC(CN)OCC | C6H15NO2
reactant | water | O | H2O
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | 2,2-Diethoxy-N-(thiophen-2-ylmethylene)ethanamine | 119 g | C(C)OC(CN=CC=1SC=CC1)OCC | C11H17NO2S
